US07514436B2
Synthesis of {4-[6-(3-Methylbutylsulfanyl)Pyridazin-3-yl]Piperazin-1-yl}-(2-Trifluoromethyl-Phenyl)Methanone
Following the procedure set forth above in Example 6, only making variations using 3-methylbutane-1-thiol to replace 2-phenylethanethiol to react with [4-(6-chloropyridazin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (24.3 mg, 26.4% yield). 1H NMR (400 MHz, CDCl3) δ 8.04, 7.98, 6.99, 3.79, 3.56, 3.45-3.47, 3.40, 1.85-1.87, 1.52, 0.72-0.80, 0.46-0.48, 0.09-0.10.

reactant | 3-methylbutane-1-thiol | CC(CCS)C | C5H12S
reactant | 2-phenylethanethiol | C1(=CC=CC=C1)CCS | C8H10S
reactant | [4-(6-chloropyridazin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone | ClC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H14ClF3N4O
product | {4-[6-(3-Methylbutylsulfanyl)Pyridazin-3-yl]Piperazin-1-yl}-(2-Trifluoromethyl-Phenyl)Methanone | CC(CCSC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F)C | C21H25F3N4OS
